US08044213B2
A mixture of 17.0 g (94.65 mmole) of 3-(2-chloro-phenyl)-3-oxo-propionitrile and 50 mL of sulfuric acid was stirred at room temperature for 18 hours. The mixture was poured into ice-water and extracted three times with ethyl acetate. The combined organic phases were washed with saturated aqueous sodium carbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexanes (gradient 20:80-70:30) to give 14.12 g of 3-(2-chloro-phenyl)-3-oxo-propionamide.

reactant | 3-(2-chloro-phenyl)-3-oxo-propionitrile | 94.65 mmole, 17.0 g | ClC1=C(C=CC=C1)C(CC#N)=O | C9H6ClNO
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 3-(2-chloro-phenyl)-3-oxo-propionamide | 14.12 g | ClC1=C(C=CC=C1)C(CC(=O)N)=O | C9H8ClNO2
